US07230133B2
N-{(1S,2S)-1-[(2,4-Dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-N′-(3-propylamino-5-trifluoromethyl-phenyl)-malonamide
A solution of {(2S,3S)-2-[2-(3-amino-5-trifluoromethyl-phenylcarbamoyl)-acetylamino]-3-hydroxyhexyl}-(2,4-dimethyl-benzyl)-carbamic acid benzyl ester (97 mg, 0.15 mmol) in MeOH (3 mL) was charged with propionaldehyde (0.01 mL, 0.15 mmol), stirred for 15 min at RT, and then charged with sodium cyanoborohydride (12 mg, 0.19 mmol). The reaction was stirred at RT for 12 h, concentrated in vacuo, and dissolved in EtOAc. The resultant solution was washed successively with water, sat. NaHCO3, water, and brine. The organic phase was dried (Na2SO4), filtered, and concentrated in vacuo. The residue was dissolved in MeOH (3 mL). This solution was charged with 5% Pd/C, Degussa style (11 mg), stirred under H2 (1 atm) for 12 h at RT, filtered, and concentrated in vacuo. Purification of the residue by reverse-phase HPLC provided the title compound as a white powder after lyopholization. MS found: (M+H)+=537.4.

reactant | {(2S,3S)-2-[2-(3-amino-5-trifluoromethyl-phenylcarbamoyl)-acetylamino]-3-hydroxyhexyl}-(2,4-dimethyl-benzyl)-carbamic acid benzyl ester | 0.15 mmol, 97 mg | C(C1=CC=CC=C1)OC(N(CC1=C(C=C(C=C1)C)C)C[C@@H]([C@H](CCC)O)NC(CC(NC1=CC(=CC(=C1)C(F)(F)F)N)=O)=O)=O | C33H39F3N4O5
reactant | propionaldehyde | 0.15 mmol, 0.01 mL | C(CC)=O | C3H6O
reactant | sodium cyanoborohydride | 0.19 mmol, 12 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | N-{(1S,2S)-1-[(2,4-Dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-N′-(3-propylamino-5-trifluoromethyl-phenyl)-malonamide | CC1=C(CNC[C@@H]([C@H](CCC)O)NC(CC(=O)NC2=CC(=CC(=C2)C(F)(F)F)NCCC)=O)C=CC(=C1)C | C28H39F3N4O3
